data/oMe_Silver.jsonl
{"reaction_id": "NR-118_1-C_2-C(C)C_3-C_4-C=Cc1ccccc1_5-c1ccc(C#N)cc1_6-C1CC1","name": "Johnson-Corey-Chaykovsky Reaction","level": "medium","reactants_smiles": ["C([H])(C)(C=Cc1ccccc1)[S+](C)(C(C)C)","C(=O)(c1ccc(C#N)cc1)(C1CC1)"],"products_smiles": ["C1(C)(C=Cc1ccccc1)OC1(c1ccc(C#N)cc1)(C1CC1)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C)(C=Cc1ccccc1)[S+](C)(C(C)C)","rationale": "The base abstracts the acidic α-proton adjacent to the positively charged sulfur, as the resulting carbanion is stabilized by the adjacent sulfonium through inductive and resonance effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(c1ccc(C#N)cc1)(C1CC1)C(C)(C=Cc1ccccc1)[S+](C)(C(C)C)","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, driven by the strong polarization of the C=O bond and stabilization of the resulting alkoxide by solvation under basic conditions."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C)(C=Cc1ccccc1)OC1(c1ccc(C#N)cc1)(C1CC1)","rationale": "The alkoxide oxygen intramolecularly attacks the adjacent carbon bearing the sulfonium, as the sulfonium is an excellent leaving group, facilitating ring closure to the strained but thermodynamically favorable epoxide."}],"description": "Under basic conditions, the sulfonium ylide is generated by deprotonation, enabling nucleophilic attack on the carbonyl to form a betaine intermediate. Intramolecular cyclization via displacement of the sulfonium group yields the epoxide product with retention of substituent patterns."}
{"reaction_id": "NR-326_1-C_2-C(=O)OCC","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(C)(=O)C(=[N+]=[N-])C(=O)OCC"],"products_smiles": ["O=C=C(C(=O)OCC)C"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(=O)[C]C(=O)OCC","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(C(=O)OCC)C","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of C to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
{"reaction_id": "NR-044_1-c1ccccc1_2-C1CC1_3-CC_4-C#CC_5-c1ccccc1C_6-C(C)CC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](c1ccccc1)(C1CC1)C(CC)(C#CC)[N+](c1ccccc1C)(C(C)CC)[O-]"],"products_smiles": ["C(c1ccccc1)(C1CC1)=C(CC)(C#CC)","O[N](c1ccccc1C)(C(C)CC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C1CC1)=C(CC)(C#CC).O[N](c1ccccc1C)(C(C)CC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
